US05296485
4-(4-Chlorophenyl)-1-[1-(4-nitrophenyl)-4-piperidinyl]-4-piperidinol
3.0 g (13.6 mmol) of 1-(4-nitrophenyl)-4-piperidone (cf. Taylor et al. Synthesis (1981) 606], 2.9 g (13.6 mmol) of 4-(4-chlorophenyl)-4-hydroxypiperidine, 0.8 g (13.6 mmol) of acetic acid and 0.9 g (13.6 mmol) of sodium cyanoborohydride were reacted as in Example 1.

reactant | 1-(4-nitrophenyl)-4-piperidone | 13.6 mmol, 3.0 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)=O | C11H12N2O3
reactant | 4-(4-chlorophenyl)-4-hydroxypiperidine | 13.6 mmol, 2.9 g | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | acetic acid | 13.6 mmol, 0.8 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 13.6 mmol, 0.9 g | C(#N)[BH3-].[Na+]
product | 4-(4-Chlorophenyl)-1-[1-(4-nitrophenyl)-4-piperidinyl]-4-piperidinol | ClC1=CC=C(C=C1)C1(CCN(CC1)C1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])O | C22H26ClN3O3
